US04874877
Racemic Methyl 2-Hydroxy-4-(methylthio)butyrate
Commercial calcium 2-hydroxy-4-(methylthio)-butyrate (20 g, 0.12 mol) was suspended in 250 ml CH2Cl2. CH3OH (15 ml, 0.36 mol) was added and the mixture cooled to 10° C., at which point H2SO4 (3.7 ml, 0.07 mol) was added. An obvious physical change in the slurry was noted. The mixture was heated at reflux for 60 minutes, by which time tlc indicated reaction was nearly complete. As a matter of convenience, the reaction mixture was stirred 64 hours at room temperature, at which time insoluble byproducts were removed by filtration. The filtrate was washed with 150 ml each of saturated NaHCO3 and brine, dried (MgSO4) and stripped to yield title product as an oil; tlc Rf 0.8 (ethyl acetate)0.25 (3:1 hexane:ethyl acetate).

reactant | calcium 2-hydroxy-4-(methylthio)-butyrate | 0.12 mol, 20 g | OC(C(=O)[O-])CCSC.[Ca+2].OC(C(=O)[O-])CCSC
reactant | CH3OH | 0.36 mol, 15 ml | CO | CH4O
reactant | H2SO4 | 0.07 mol, 3.7 ml | OS(=O)(=O)O | H2O4S
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
product | Racemic Methyl 2-Hydroxy-4-(methylthio)butyrate | OC(C(=O)OC)CCSC | C6H12O3S
